US09126993B2
1-azabicyclo[2.2.2]oct-3-yl {2-[2-fluoro-5-(2-methylpropyl)phenyl]propan-2-yl}carbamate
Using general procedure E, 1-azabicyclo[2.2.2]oct-3-yl[2-(5-bromo-2-fluorophenyl)propan-2-yl]carbamate (120 mg, 0.312 mmol), 2-methylpropylboronic acid (79.4 mg, 0.779 mmol) and palladium (II) acetate gave the title as a white solid compound (37 mg, 33%). 1H NMR (400 MHz, CDCl3) δ 7.08 (dd, J=2.0, 8.2 Hz, 1H), 6.95 (d, J=4.9 Hz, 1H), 6.93-6.85 (m, 1H), 5.23 (s, 1H), 4.72-4.52 (m, 1H), 3.20-2.47 (m, 6H), 2.41 (d, J=7.1 Hz, 2H), 1.89-1.76 (m, 1H), 2.02-1.26 (m, 5H), 1.70 (d, J=7.6 Hz, 6H), 0.88 (d, J=6.6 Hz, 6H) ppm. 13C NMR (100 MHz, CDCl3) δ 160.4, 158.0, 137.1, 137.1, 129.2, 129.1, 128.1, 116.2, 116.0, 71.2, 55.8, 54.2, 47.6, 46.7, 45.1, 30.5, 29.9, 28.6, 27.0, 25.6, 24.8, 22.5, 19.8, 19.5 ppm. Purity: 95.0% UPLCMS (210 nm); retention time 1.02 min; (M+1) 363.

reactant | 1-azabicyclo[2.2.2]oct-3-yl[2-(5-bromo-2-fluorophenyl)propan-2-yl]carbamate | 0.312 mmol, 120 mg | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=C(C=CC(=C2)Br)F)=O | C17H22BrFN2O2
reactant | 2-methylpropylboronic acid | 0.779 mmol, 79.4 mg | CC(CB(O)O)C | C4H11BO2
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-azabicyclo[2.2.2]oct-3-yl {2-[2-fluoro-5-(2-methylpropyl)phenyl]propan-2-yl}carbamate | 37 mg, 33% | FC1=C(C=C(C=C1)CC(C)C)C(C)(C)NC(OC1CN2CCC1CC2)=O | C21H31FN2O2
